US07375113B2
To a solution of benzyl alcohol (1 mL) and triethylamine (2.69 mL) in dichloromethane (15 mL) was added 4-bromobutyryl chloride (1.68 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=8/1) to give benzyl 4-bromobutyrate (2.45 g). To a solution of 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (0.17 g) in acetone (3 mL) were added cesium carbonate (0.16 g), benzyl 4-bromobutyrate (0.1 g) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature for 2 days. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=10/1−3/1) to give 1-(3-benzyloxycarbonylpropyl)-3-(β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (0.14 g). This material was dissolved in tetrahydrofuran (5 mL). To the solution was added 10% palladium-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2-dichloromethane/methanol=15/1) to give the title compound (95 mg).

reactant | 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 0.17 g | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)OC1=NNC2=NC=CC(=C21)CCC2=CC=C(C=C2)OC(C(C)(C)C)=O | C45H63N3O12
reactant | cesium carbonate | 0.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 4-bromobutyrate | 0.1 g | BrCCCC(=O)OCC1=CC=CC=C1 | C11H13BrO2
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 1-(3-benzyloxycarbonylpropyl)-3-(β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 0.14 g | C(C1=CC=CC=C1)OC(=O)CCCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C36H43N3O10
